US07560558B2
Compound 177: 1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methoxy-phenyl]-ethanone hydrochloride
1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methoxy-phenyl]-ethanone (802 mg) was dissolved in a hydrochloric acid-methanol solution (20 ml) to prepare a solution which was then stirred at room temperature overnight. The solvent was removed by distillation under the reduced pressure, and the residue was washed with ethyl acetate and was dried in vacuo to give the title compound (885 mg, yield 10%).

reactant | 1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methoxy-phenyl]-ethanone | 802 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)OC)C(C)=O | C20H19NO5
reactant | hydrochloric acid methanol | 20 ml | Cl.CO
product | 1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methoxy-phenyl]-ethanone hydrochloride | 885 mg, yield 10% | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)OC)C(C)=O | InChI=1S/C20H19NO5.ClH/c1-12(22)14-9-13(23-2)5-6-17(14)26-18-7-8-21-16-11-20(25-4)19(24-3)10-15(16)18;/h5-11H,1-4H3;1H
